US07915424B2
5-Bromo-2-fluorophenylamine
Add 4-bromo-1-fluoro-2-nitrobenzene (19.4 g, 88.2 mmol) and 10 g of fine mesh iron to a solution of acetic acid (75 mL) and water (5 mL) and heat to 105° C. for 4 h or until the 4-bromo-1-fluoro-2-nitrobenzene is completely consumed. Concentrate to remove most of the acetic acid, pour into water and extract with ethyl acetate. Wash the ethyl acetate layers with water, an aqueous saturated solution of sodium chloride, dry (potassium carbonate), filter and concentrate. Purify the residue by silica gel chromatography, eluting with hexanes:ethyl acetate, to give the title compound as an amber oil (11.3 g, 67%).

reactant | 4-bromo-1-fluoro-2-nitrobenzene | 88.2 mmol, 19.4 g | BrC1=CC(=C(C=C1)F)[N+](=O)[O-] | C6H3BrFNO2
reactant | acetic acid | 75 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 10 g | [Fe] | Fe
solvent | water | 5 mL | O | H2O
product | 5-Bromo-2-fluorophenylamine | 11.3 g, 67% | BrC=1C=CC(=C(C1)N)F | C6H5BrFN
